US07300932B2
7-Cyclopentyl-2-morpholin-4-yl-4-phenyl-pyrrolo[1,2-b]pyridazine-5,6-dicarboxylic acid diethyl ester (40).
A solution of 4-(5-phenylpyridazin-3-yl)morpholine (150 mg, 0.622 mmol) and methanesulfonic acid cyclopentylmethyl ester (Newcomb et al. (1980) J. Org. Chem. 45:1707-1708) (890 mg, 4.99 mmol) in CH3CN (30 mL) was heated at reflux for 48 h. The solvent was removed in vacuo to provide a brown oil. Diethyl acetylenedicarboxylate (150 μL, 0.933 mmol) and a 1M solution of TBAF in THF (684 μL, 0.684 mmol) were added to a solution of this oil in THF (30 mL) and EtOH (5 mL). The reaction mixture was heated at reflux for 20 h. The solvent was removed in vacuo and the residue was purified by flash chromatography (silica gel, 15% EtOAc/hexane). The resulting residue was triturated in 1:1 Et2O/hexane to provide the title compound as an off-white solid. 1H NMR (DMSO-d6) δ 0.86 (t, J=7.1 Hz, 3H), 1.17 (t, J=7.1 Hz, 3H), 1.66 (m, 2H), 1.76 (m, 2H), 1.87 (m, 2H), 2.23 (m, 2H), 3.48 (m, 6H), 3.72 (m, 4H), 4.06 (m, 1H), 4.15 (q, J=7.1 Hz, 2H), 6.77 (s, 1H), 7.39 (m, 2H), 7.45 (m, 3H). Mass Spectrum (ESI+) m/e=492.3 (M+H).

reactant | 4-(5-phenylpyridazin-3-yl)morpholine | 0.622 mmol, 150 mg | C1(=CC=CC=C1)C=1C=C(N=NC1)N1CCOCC1 | C14H15N3O
reactant | methanesulfonic acid cyclopentylmethyl ester | 4.99 mmol, 890 mg | C1(CCCC1)COS(=O)(=O)C | C7H14O3S
reactant | Diethyl acetylenedicarboxylate | 0.933 mmol, 150 μL | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
reactant | TBAF | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | CH3CN | 30 mL | CC#N | C2H3N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | THF | 0.684 mmol, 684 μL | C1CCOC1 | C4H8O
product | 7-Cyclopentyl-2-morpholin-4-yl-4-phenyl-pyrrolo[1,2-b]pyridazine-5,6-dicarboxylic acid diethyl ester | C(C)OC(=O)C=1C(=C(N2N=C(C=C(C21)C2=CC=CC=C2)N2CCOCC2)C2CCCC2)C(=O)OCC | C28H33N3O5
